US04229462
As the first step in the reaction, phenyl isocyanate, 119 grams (1 mole) is added in one portion with swirling to a warm solution of 83.73 grams (1.1 mole) of thiourea in 120 milliliters of dry dimethylformamide and the resulting solution heated for three hours. Thereafter, the solution is cooled, a mixture of ice and ice water cautiously added and the vessel scratched to induce crystallization of the desired intermediate N-phenylthioimidodicarbonic diamide. After crystallization starts, additional ice water (to about 1 liter) is added. The crystals which form are then recovered, washed with water and recrystallized from methanol to obtain 127 grams of a N-phenylthioimidodicarbonic diamide intermediate product, m.p. 176°-180° C.

reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | thiourea | 1.1 mole, 83.73 grams | NC(=S)N | CH4N2S
reactant | dimethylformamide | 120 milliliters | CN(C=O)C | C3H7NO
product | N-phenylthioimidodicarbonic diamide | 127 grams | C1(=CC=CC=C1)NC(=S)NC(=O)N | C8H9N3OS
